data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,10347,"CO[N:1]=[CH:2]C.[H:3][AlH3-:4].[Li+]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,10123,"C=[O+:1][Si-:2](C)(C)(C)Cl|((2, 1), 1)"
train,pmechdb_split_0,0,2901,"C1=CC=C([P+:1](C2=CC=CC=C2)(C2=CC=CC=C2)[O:2][CH2:3]C2=CC3=C(C=CC=C3)C=C2)C=C1.CCC(C(=O)C1=CC=CC=C1)C(=O)[O-:4].CCOC(=O)NN=C(O)OCC.CCOC(=O)NNC(=O)OCC|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,3187,"O[CH:1]([NH2:2])[OH2+:3].[Cl-]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1447,"C[NH:1][CH2:2][F:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3048,"CC(C)(C)[O:1][K].CC1(C)OC2C(C[C:2]([H:3])=[CH:4][Br:5])OC(N3C=NC4=C(NC5CCCC5)N=CN=C43)C2O1|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,6319,"CO[PH+:1](OC)[O:2][CH3:3].[Cl-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,8070,"C[CH:1]1[NH2+:2]CC[O:3]1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3386,"C1CC[NH+:1]([H:2])CC1.CC1=CC=C(C(C(C#N)=C(O)CC(C)(C)C)[N:3]2CCCCC2)C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4692,"CC(C)(C)OC(=O)N1CCC2=C3C=C(C(=O)[O:1][H:2])NC3=CC=C21.CCOC(=O)NN(C(OCC)=[O:3])P(OCCC1=CC=C([N+](=O)[O-])C=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4835,"CC[O+:1](C)[Li:2]|((2, 1), 1)"
train,pmechdb_split_0,0,9146,"CC[N:1](CC)[C:2](C)(C)[OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6698,"CCCCCC1=C[C:1]([C:2](C)([CH:3](C2=CC=C(CCC)C=C2)[OH2+:4])[OH:5])=CC=C1.O=S(=O)([O-])C1=CC=C(C(F)(F)F)C=C1|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7283,"CS(=O)(=O)O[Si:1](C)(C)C.[Br-:2]|(2, 1)"
train,pmechdb_split_0,0,311,"CC(=O)[O:1][C:2]1([O-:3])C[NH+]=C(C)O1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8580,"F[B-:1](F)(F)[O+:2]=C1NC2=C(C=CC=C2)C12CCCC2|((1, 2), 2)"
train,pmechdb_split_0,0,1804,"C1=CC=NC=C1.CC12CCC(O)CC1=CCC1C2CCC2(C)C1CCC2[C:1](C)=[OH+:2].OCC[OH:3].[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1165,"C1=CC=[NH+]C=C1.COC(=O)C[C:1](=[CH:2]C(=O)OC)[O-:3].ClC[CH:4]=[O:5].O|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,2989,"C1=CC=C(COCC2[CH2:1][O:2]2)C=C1.CC(C)(C)[Si](C)(C)[C:3]1([Li:4])SCCCS1.CC(C)C|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,9334,"C1CCC2([O-:1])[NH2+]CCCC2C1.C[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7383,"C#CC(C1=CC=C(OCCCCC2=CN(C(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)C=N2)C=C1)[O:1][Mg][Br].[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2826,"CSC(O)C(OCC1=CC=CC=C1)C1OC(C)(C)OC1C(OCC1=CC=CC=C1)[CH:1]=[S+:2]C.O=C(O)C(F)(F)F.O=C([O-])C(F)(F)F.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8562,"CN(C)C(=O)CCC[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,10212,"C[S+:1]([O-])[NH2:2]|(2, 1)"
train,pmechdb_split_0,0,9452,"C=CCO[C+:1]1C=C[C:2](C(CC)OC2=CC=CC=C2)([H:3])[CH:4]=[CH:5]1.[F-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,6105,"CC(C)NC(C)C.CCCCCCC[CH:1]=[O+:2][Li-][N:3](C(C)(C)C)[CH:4]=[C:5](C)[Si](CC)(CC)CC|(3, 4);((4, 5), 1);((1, 2), 2)"
train,pmechdb_split_0,0,3681,"C[CH:1]([CH2:2][H:3])[N+:4](C)(C)C.[OH-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,2926,"CCCC(CCC)=[O:1].[BH4-].[Na+:2]|(1, 2)"
train,pmechdb_split_0,0,920,"CS(=O)(=O)[O-:1].C[CH+]C[Si:2](C)(C)C|(1, 2)"
train,pmechdb_split_0,0,1130,"CC(C)CC[O][Al-:1]([O]C(C)C)([O]C(C)C)[OH+:2]C(C)C.CC(C)[O-]|((1, 2), 2)"
train,pmechdb_split_0,0,9073,"CO[CH:1]=[OH+:2].[Cl-].[NH3:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7860,"C[P:1](C)C.[Cl:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4683,"CC(C)(C#N)[O:1][H:2].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2801,"COC1=CC=C([CH2:1][Br:2])C=C1.OCC[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3118,"C[C+:1]=O.C[C:2]1=[C:3]2C=CC=C[C:4]2=[CH:5]C=C1|((2, 3), 4);((4, 5), 1)"
train,pmechdb_split_0,0,4654,"CC(C)[N-:1]C(C)C.COC(=O)C=C(CC1=CC=CC=C1)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1677,"C1=CC=CC=C1.CC(=O)CCC(C1=C(Br)C=CC=C1)=[O:1].CC1=CC=C(S(=O)(=O)[O:2][H:3])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1494,"CCOCC(=O)NC1=C(NCC(C)(C)O)C2=C(C=CC=C2)N=C1[NH2+:1][H:2].[Cl-].[NH3:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4979,"CC(C)=O.CC(C)O.COC1=CC2=C(C=C1)CCN1C(=O)C=C3C=CC([O][Al-]([O]C(C)C)([O]C(C)C)[OH+:1][H:2])CC321.[OH2:3].[OH3+]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6449,"CCOC(CNC(COCC1=CC=CC=C1)C1=C2OCOC2=C(C)C(OC)=C1)[O:1]CC.[Cl-].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1850,"C1CCOC1.N#CC1=CC=C(N2CC[C:1]3(CC2)[OH+:2]CC[O:3]3)C=C1.O.O=S(=O)([O-])O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9929,"CCC(=O)O[C:1]1=[CH:2]C=CC=C1.O=[N+:3]=[O:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1456,"C=CC(C(C)=O)C(C)(C=CC)[O-:1].[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1936,"C[O:1][CH:2](C1=CC=CC=C1)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,598,"CC[O-:1].[AlH3:2]|(1, 2)"
train,pmechdb_split_0,0,10092,"CCC[C:1](CCC)=[O+:2][Al-:3]([CH2]C(C)C)([CH2]C(C)C)[H:4]|((3, 4), 1);((1, 2), 2)"
